US06077850
8-Bromo-6-chloro-2-trifluoromethyl-2H-1-benzopyran-3-carboxylic acid
Ethyl 8-bromo-6-chloro-2-trifluoromethyl-2H-1-benzopyran-3-caboxylate (0.3 g), ethanol (15 mL), tetrahydrofuran (10 mL), and sodium hydroxide solution (10 mL, 2.5 N) were stirred at room temperature for 16 h. Hydrochloric acid (1 N) was added until the mixture was acidic to pH paper. The addition of water (50 mL) caused the formation of a precipitate which was collected by filtration yielding the title compound as a white solid (0.2 g, 72%): mp 227.8-228.9° C. 1H NMR (acetone-d6 /300 MHz) 7.90 (s, 1H), 7.65 (dd, 2H, J=2.4 and J=28.8 Hz), 6.00 (qH-F, 1H, J=7.2 Hz). FABHRMS m/z 356.9134 (M+H, Calc'd 356.9141). Anal. Calc'd for C11H5BrClF3O3 : C, 36.96; H, 1.41. Found: C, 37.05; H, 1.33.

reactant | Ethyl 8-bromo-6-chloro-2-trifluoromethyl-2H-1-benzopyran-3-caboxylate | 0.3 g | BrC1=CC(=CC=2C=C(C(OC21)C(F)(F)F)C(=O)OCC)Cl | C13H9BrClF3O3
reactant | ethanol | 15 mL | C(C)O | C2H6O
reactant | sodium hydroxide | 2.5 N, 10 mL | [OH-].[Na+]
reactant | Hydrochloric acid | 1 N | Cl | ClH
solvent | water | 50 mL | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 8-Bromo-6-chloro-2-trifluoromethyl-2H-1-benzopyran-3-carboxylic acid | 0.2 g, 72% | BrC1=CC(=CC=2C=C(C(OC21)C(F)(F)F)C(=O)O)Cl | C11H5BrClF3O3
